US07713994B2
(4Z)-5-Bromo-4-{[(3-hydroxy-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
A solution of 88.5 mg (0.468 mmol) of 3-hydroxy-4-methoxy-benzylamine hydrogen chloride in 1.8 mL of N,N-dimethylformamide (DMF) at RT under N2 is treated with 94.5 mg (0.936 mmol) of Et3N. (4E)-5-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (132 mg, 0.468 mmol) is added and the mixture is stirred for 3.5 h. Water is added and the product is collected, washed with H2O and Et2O and dried to give 163 mg (86%) of pale yellow amorphous solid: mp 204-206° C.; 1H NMR (DMSO-d6) δ 11.11 (s, 1H), 10.56 (m, 1H), 9.08 (s, 1H), 8.93 (d, 1H, J=13.6 Hz), 8.05 (d, 1H, J=6.9 Hz), 7.87 (d, 1H, J=6.9 Hz), 7.09 (m, 1H), 6.91 (d, 1H, J=8.07 Hz), 6.78 (m, 2H), 4.49 (d, 2H, J=5.37 Hz), 3.75 (s, 3H); HRMS (ESI) m/z calcd for C18H15BrN2O4 403.02880. found 403.02840 (M+H)+1.

reactant | 3-hydroxy-4-methoxy-benzylamine hydrogen chloride | 0.468 mmol, 88.5 mg | Cl.OC=1C=C(CN)C=CC1OC
reactant | Et3N | 0.936 mmol, 94.5 mg | CCN(CC)CC | C6H15N
reactant | (4E)-5-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.468 mmol, 132 mg | BrC1=C2\C(\C(NC(C2=CC=C1)=O)=O)=C/OC | C11H8BrNO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1.8 mL | CN(C=O)C | C3H7NO
product | (4Z)-5-Bromo-4-{[(3-hydroxy-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 163 mg, 86% | BrC1=C2/C(/C(NC(C2=CC=C1)=O)=O)=C/NCC1=CC(=C(C=C1)OC)O | C18H15BrN2O4
